US04011320
5.4 G. of 2-amino-4-phenylsulfinyl-1-nitrobenzen is hydrogenated at 1 atmosphere pressure in 500 ml. methanol in the presence of 5 g. 5% palladized carbon, until the theoretical uptake of hydrogen has occurred. The catalyst is removed by filtration and the filtrate stripped under vacuum. The residue is recrystallized from methanol-benzene, yielding 1,2-diamino-4-phenylsulfinylbenzene.

reactant | 2-amino-4-phenylsulfinyl-1-nitrobenzen | NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O3S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-phenylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)C1=CC=CC=C1)N | C12H12N2OS
